US08258144B2
4-(cyclopropylamino)-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile
A mixture of 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile (145 mg, 0.374 mmol), 6-amino-3,4-dihydroquinolin-2(1H)-one (60 mg, 0.370 mmol) and trimethylsilyl chloride (0.200 mL, 1.58 mmol) in nBuOH (4 mL) was stirred at 135° C. for 20 h. It was concentrated in vacuo. The residue was purified by HPLC to give the titled compound (50 mg). MS 360.3 (M+H); UV 202.2, 292.7 nm.

reactant | 2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 0.374 mmol, 145 mg | ClC=1N=C(C2=C(N1)N(C=C2C#N)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C17H14ClN5O2S
reactant | 6-amino-3,4-dihydroquinolin-2(1H)-one | 0.370 mmol, 60 mg | NC=1C=C2CCC(NC2=CC1)=O | C9H10N2O
reactant | trimethylsilyl chloride | 1.58 mmol, 0.200 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 4 mL | C(CCC)O | C4H10O
product | 4-(cyclopropylamino)-2-(2-oxo-1,2,3,4-tetrahydroquinolin-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-5-carbonitrile | 50 mg | C1(CC1)NC=1C2=C(N=C(N1)NC=1C=C3CCC(NC3=CC1)=O)NC=C2C#N | C19H17N7O
